US05990133
1-[5-Fluoro-4-methoxy-3-(pyrid-3-yl)phenylcarbamoyl]-5-methoxy-6-trifluoromethylindoline (E32)
The title compound (0.34 g, 53%) was prepared from phenyl N-[5-fluoro-4-methoxy-3-(pyrid-3-yl)phenyl)carbamate (D24) (0.48 g, 0.0014 mole) and 5-methoxy-6-trifluoromethylindoline (D11) using the method of Example 28.

reactant | phenyl N-[5-fluoro-4-methoxy-3-(pyrid-3-yl)phenyl)carbamate | 0.0014 mole, 0.48 g | FC=1C(=C(C=C(C1)NC(OC1=CC=CC=C1)=O)C=1C=NC=CC1)OC | C19H15FN2O3
reactant | 5-methoxy-6-trifluoromethylindoline | COC=1C=C2CCNC2=CC1C(F)(F)F | C10H10F3NO
product | 1-[5-Fluoro-4-methoxy-3-(pyrid-3-yl)phenylcarbamoyl]-5-methoxy-6-trifluoromethylindoline | 0.34 g, 53% | FC=1C(=C(C=C(C1)NC(=O)N1CCC2=CC(=C(C=C12)C(F)(F)F)OC)C=1C=NC=CC1)OC | C23H19F4N3O3
